US07696216B2
B. Synthesis of {2-[2-(3,5-dimethoxy-phenyl)-2-methyl-propylamino]-4-hydroxy-5-methoxy-phenyl}-(4-isopropyl-phenyl)-methanone
A mixture of 41.1 mg (144 μmol) (2-amino-4-hydroxy-5-methoxy-phenyl)-(4-isopropyl-phenyl)-methanone, 45 mg (216 mmol) 2-(3,5-dimethoxy-phenyl)-2-methyl-propionaldehyde, 180 mg molecular sieves (pore size 4 Å) and 0.50 ml CH2Cl2 is stirred for 90 min before 8.23 μl (144 μmol) and 22 mg NaCNBH3 are added. After 16 h the excess of reducing agent is destroyed by addition of 1 M hydrochloric acid and the mixture is basified with 1 M sodium hydroxide solution. The product is extracted with CH2Cl2 and purified by reversed phase preparative HPLC.

reactant | (2-amino-4-hydroxy-5-methoxy-phenyl)-(4-isopropyl-phenyl)-methanone | 144 μmol, 41.1 mg | NC1=C(C=C(C(=C1)O)OC)C(=O)C1=CC=C(C=C1)C(C)C | C17H19NO3
reactant | 2-(3,5-dimethoxy-phenyl)-2-methyl-propionaldehyde | 216 mmol, 45 mg | COC=1C=C(C=C(C1)OC)C(C=O)(C)C | C12H16O3
reactant | NaCNBH3 | 22 mg | [BH3-]C#N.[Na+]
solvent | CH2Cl2 | 0.50 ml | C(Cl)Cl | CH2Cl2
product | {2-[2-(3,5-dimethoxy-phenyl)-2-methyl-propylamino]-4-hydroxy-5-methoxy-phenyl}-(4-isopropyl-phenyl)-methanone | COC=1C=C(C=C(C1)OC)C(CNC1=C(C=C(C(=C1)O)OC)C(=O)C1=CC=C(C=C1)C(C)C)(C)C | C29H35NO5
